US08247401B2
Step E: 3-(3-Fluoropyridin-2-yl)-N-[(1R)-1-(5-fluoropyridin-2-yl)ethyl]-5-(5-methylpyridin-2-yl)benzamide
To a solution of the sodium chloride salt of 3-(3-fluoropyridin-2-yl)-5-(5-methylpyridin-2-yl)benzoic acid (25.0 mg, 0.05 mmol) in N,N-dimethylformamide (0.35 mL) were added (1R)-1-(5-fluoropyridin-2-yl)ethanamine hydrochloride salt (16.5 mg, 0.08 mmol), EDC (14.9 mg, 0.08 mmol), HOBT (7.92 mg, 0.05 mmol) and triethylamine (21.6 μL, 0.16 mmol). The reaction mixture was stirred at ambient temperature. After 18 h, the mixture was cooled to ambient temperature. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→50% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound. HRMS 431.1706 (M+1). 1H NMR (500 MHz, CDCl3): δ 8.73 (q, J=1.6 Hz, 1H); 8.57-8.54 (m, 2H); 8.52 (t, J=1.7 Hz, 1H); 8.45 (q, J=1.5 Hz, 1H); 8.44 (d, J=2.8 Hz, 1H); 7.78 (d, J=8.1 Hz, 1H); 7.62-7.52 (m, 3H); 7.43-7.31 (m, 3H); 5.43 (p, J=7.0 Hz, 1H); 2.40 (s, 3H); 1.61 (d, J=6.8 Hz, 3H).

reactant | sodium chloride salt | [Cl-].[Na+]
reactant | 3-(3-fluoropyridin-2-yl)-5-(5-methylpyridin-2-yl)benzoic acid | 0.05 mmol, 25.0 mg | FC=1C(=NC=CC1)C=1C=C(C(=O)O)C=C(C1)C1=NC=C(C=C1)C | C18H13FN2O2
reactant | (1R)-1-(5-fluoropyridin-2-yl)ethanamine hydrochloride salt | 0.08 mmol, 16.5 mg | Cl.FC=1C=CC(=NC1)[C@@H](C)N
reactant | EDC | 0.08 mmol, 14.9 mg
reactant | HOBT | 0.05 mmol, 7.92 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.16 mmol, 21.6 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 0.35 mL | CN(C=O)C | C3H7NO
product | 3-(3-Fluoropyridin-2-yl)-N-[(1R)-1-(5-fluoropyridin-2-yl)ethyl]-5-(5-methylpyridin-2-yl)benzamide | FC=1C(=NC=CC1)C=1C=C(C(=O)N[C@H](C)C2=NC=C(C=C2)F)C=C(C1)C1=NC=C(C=C1)C | C25H20F2N4O
